US04276430
A flask is fitted with a stirring bar and charged with 5.0 grams (0.0255 mole) of 2-acetoxy-5-hydroxybenzoic acid [M. Bergmann and P. Dangschat, Berichte, 52, 371 (1919)]. After the flask is flushed with argon and cooled in an ice bath, a solution of t-butyldimethylsilylchloride (9.23 gr., 0.06122 mole) and imidazole (8.5 gr., 0.125 mole) dissolved in 20 ml of anhydrous dimethylformaldehyde (DMF) is added dropwise over a 30 minute period. The reaction mixture is stirred at room temperature overnight. The DMF is removed in vacuo. The residue is taken up in ether (75 ml) transferred to a separatory funnel and extracted with 1 N HCl (3×25 ml), 5% NaOH (3×25 ml), water (2×10 ml) and brine (20 ml). The ether extract is dried over sodium sulfate, filtered and the solvents removed in vacuo to yield 2-acetoxy-5-t-butyldimethylsilylbenzoic acid.

reactant | 2-acetoxy-5-hydroxybenzoic acid | 0.0255 mole, 5.0 grams | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)O | C9H8O5
reactant | t-butyldimethylsilylchloride | 0.06122 mole, 9.23 gr | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.125 mole, 8.5 gr | N1C=NC=C1 | C3H4N2
solvent | dimethylformaldehyde | 20 ml | CC(=O)C | C3H6O
product | 2-acetoxy-5-t-butyldimethylsilylbenzoic acid | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)[Si](C)(C)C(C)(C)C | C15H22O4Si
